US07700589B2
2-indan-5-ylmethyl-1-(1′-methyl-[4,4′]bipiperidinyl-1-yl)-4-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-butan-1,4-dione
Prepared analogously to Example 76e) from and 2-indan-5-ylmethyl-4-oxo-4-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-butanoic acid and 1-methyl-[4,4′]bipiperidinyl.

reactant | 2-indan-5-ylmethyl-4-oxo-4-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-butanoic acid | C1CCC2=CC(=CC=C12)CC(C(=O)O)CC(N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O | C27H31N3O4
reactant | 1-methyl-[4,4′]bipiperidinyl | CN1CCC(CC1)C1CCNCC1 | C11H22N2
product | 2-indan-5-ylmethyl-1-(1′-methyl-[4,4′]bipiperidinyl-1-yl)-4-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-butan-1,4-dione | C1CCC2=CC(=CC=C12)CC(C(=O)N1CCC(CC1)C1CCN(CC1)C)CC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C38H51N5O3
